US07166744B2
To a solution of EDCI (0.023 g, 0.12 mmol) in anhydrous DMF (5 mL) was added a solution of retinoic acid (0.031 g, 0.10 mmol) in anhydrous DMF (5 mL). The mixture was stirred at room temperature for 0.5 h. A solution of 2-amino-5-hydroxy-phenyl butanoate (KCBG05, 0.020 g, 0.12 mmol) and DMAP (cat.) in anhydrous DMF (2 mL) was added to the mixture, and again stirred for 4 h. The reaction was quenched with NH4Cl (aq.), extracted with EtOAc (2×30 mL). The extracts were washed with H2O (2×30 mL), dried over anhydrous Na2SO4, and evaporated. The residue was purified by flash column chromatography over silica gel (EtOAc:hexane=1:6) to give 2-[(2E,4E,6E,8E)-3,7-dimethyl-9-(2,6,6-trimethylcyclohex-1-enyl)-nona-2,4,6,8-tetraenoylamino]-5-hydroxyphenyl butanoate (KCBG10, 0.038 g, 78%) as a yellow solid.

reactant | EDCI | 0.12 mmol, 0.023 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | retinoic acid | 0.10 mmol, 0.031 g | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/C(=O)O)/C)/C | C20H28O2
reactant | 2-amino-5-hydroxy-phenyl butanoate | 0.12 mmol, 0.020 g | C(CCC)(=O)OC1=C(C=CC(=C1)O)N | C10H13NO3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-[(2E,4E,6E,8E)-3,7-dimethyl-9-(2,6,6-trimethylcyclohex-1-enyl)-nona-2,4,6,8-tetraenoylamino]-5-hydroxyphenyl butanoate | 0.038 g, 78% | C(CCC)(=O)OC1=C(C=CC(=C1)O)NC(\C=C(\C=C\C=C(\C=C\C1=C(CCCC1(C)C)C)/C)/C)=O | C30H39NO4
